US06159979
N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[3,4-methylenedioxyphenyl]urea
The title compound was prepared from 3,4-methylenedioxyphenyl isocyanate and 4-methoxy-3-(4-methylpiperazin-1-yl)aniline (EP0533268A1) using a similar procedure to Example 11.

reactant | 3,4-methylenedioxyphenyl isocyanate | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
reactant | 4-methoxy-3-(4-methylpiperazin-1-yl)aniline | COC1=C(C=C(N)C=C1)N1CCN(CC1)C | C12H19N3O
product | N-[4-Methoxy-3-(4-methylpiperazin-1-yl)phenyl]-N'-[3,4-methylenedioxyphenyl]urea | COC1=C(C=C(C=C1)NC(=O)NC1=CC2=C(C=C1)OCO2)N2CCN(CC2)C | C20H24N4O4
